US04251443
45 g of carbobenzoxy-glycine dissolved in 1 liter of absolute tetrahydrofuran are treated dropwise while cooling with ice with 20 ml of thionyl chloride and stirred for 1 hour while cooling with ice. There is then rapidly added dropwise thereto a suspension of 50 g of 2-amino-5-nitro-2'-fluorobenzophenone in 200 ml of absolute tetrahydrofuran and the mixture is stirred at room temperature for 18 hours. The solution obtained is concentrated and the residue is treated with ice and 10% sodium bicarbonate solution and extracted with methylene chloride. The organic solution is dried over sodium sulphate, filtered and concentrated. The residue is dissolved in a small amount of hot ethyl acetate, concentrated partially and treated with ether. Benzyl{[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]methyl}-carbamate is obtained. The mother liquors are purified on a 100 g silica gel column using methylene chloride as the eluting agent, an additional amount of the aforementioned product being obtained.

reactant | carbobenzoxy-glycine | 45 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
reactant | thionyl chloride | 20 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-amino-5-nitro-2'-fluorobenzophenone | 50 g | NC1=C(C(=O)C2=C(C=CC=C2)F)C=C(C=C1)[N+](=O)[O-] | C13H9FN2O3
solvent | tetrahydrofuran | 1 liter | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | Benzyl{[[2-(o-fluorobenzoyl)-4-nitrophenyl]carbamoyl]methyl}-carbamate | C(C1=CC=CC=C1)OC(NCC(NC1=C(C=C(C=C1)[N+](=O)[O-])C(C1=C(C=CC=C1)F)=O)=O)=O | C23H18FN3O6
